US05641792
b) methyl 4-(3-pyridyloxy)-3-trifluoromethyl-benzoate
2 mmol of methyl 4-fluoro-3-trifluoromethyl-benzoate, 2 mmol of 3-hydroxypyridine and 4 mmol of K2CO3 are stirred in 15 ml of DMF (anhydrous) at 110° C. for 1.5 hours. The mixture is then poured onto 100 ml of water and extracted 3 times with 50 ml of EA each time. The extract is dried over Na2SO4, the solvent is removed in vacuo and the product is further reacted without additional purification. 500 mg of colorless oil. Rf (MTB)=0.33 MS (ES): 298 (M+1)

reactant | methyl 4-fluoro-3-trifluoromethyl-benzoate | 2 mmol | FC1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C9H6F4O2
reactant | 3-hydroxypyridine | 2 mmol | OC=1C=NC=CC1 | C5H5NO
reactant | K2CO3 | 4 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | methyl 4-(3-pyridyloxy)-3-trifluoromethyl-benzoate | N1=CC(=CC=C1)OC1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C14H10F3NO3
